US08242145B2
Step 4: [3-(4-Bromo-2-formyl-phenoxy)-4-chloro-phenyl]-acetic acid ethyl ester
Prepared according to the procedure described in Example 24, Step 4, using the following starting materials: (4-chloro-3-hydroxy-phenyl)-acetic acid ethyl ester and 5-bromo-2-fluorobenzaldehyde.

reactant | (4-chloro-3-hydroxy-phenyl)-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)Cl)O)=O | C10H11ClO3
reactant | 5-bromo-2-fluorobenzaldehyde | BrC=1C=CC(=C(C=O)C1)F | C7H4BrFO
product | [3-(4-Bromo-2-formyl-phenoxy)-4-chloro-phenyl]-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)Cl)OC1=C(C=C(C=C1)Br)C=O)=O | C17H14BrClO4
